US08048897B2
(1) Synthesis of (2-Benzyloxyphenyl)-(trifluoromethoxy-phenyl)methanol
In a nitrogen stream, an n-butyllithium hexane solution (1.59 M, 8.7 mL) was added dropwise to a solution of 1-benzyloxy-2-bromobenzene (3.3 g, 12.64 mmol) in THF (126 mL) at −78° C. and the mixture solution was stirred at the same temperature for 15 minutes. To this solution, a solution of 4-trifluoromethoxybenzaldehyde (2.0 g, 10.52 mmol) in THF (42 mL) was added dropwise at −78° C. The reaction mixture was stirred at the same temperature for 40 minutes and at 0° C. for 45 minutes, and then a saturated ammonium chloride aqueous solution was added thereto and the mixture was extracted with ethyl acetate. The organic layer was washed with a saturated sodium chloride aqueous solution and dried (anhydrous magnesium sulfate), and then the solvent was distilled under reduced pressure. The obtained residue was purified by silica gel column chromatography [developing solution=ethyl acetate:n-hexane (1:10)] to obtain the title compound (3.03 g, 77%) as a colorless oil.

reactant | n-butyllithium hexane | 1.59 M, 8.7 mL | CCCCCC.C(CCC)[Li]
reactant | 1-benzyloxy-2-bromobenzene | 12.64 mmol, 3.3 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1)Br | C13H11BrO
reactant | 4-trifluoromethoxybenzaldehyde | 10.52 mmol, 2.0 g | FC(OC1=CC=C(C=O)C=C1)(F)F | C8H5F3O2
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | THF | 126 mL | C1CCOC1 | C4H8O
reactant | THF | 42 mL | C1CCOC1 | C4H8O
product | (2-Benzyloxyphenyl)-(trifluoromethoxy-phenyl)methanol | 3.03 g, 77% | C(C1=CC=CC=C1)OC1=C(C=CC=C1)C(O)C1=C(C=CC=C1)OC(F)(F)F | C21H17F3O3
